US04334909
Preparation of 2-Chloro-2',6'-Dinitro-N-(Methoxymethyl)Acetanilide
To a 500 ml. stirred flask was added 3.0 g. (0.012 moles) of 2',6'-dinitro-2-chloroacetanilide, 2.5 ml. of chloromethyl methyl ether, 1.0 g. of phase transfer catalyst and 150 ml. of methylene chloride. Thereafter, 75 ml. saturated sodium carbonate solution was added in one portion and stirring continued for 50 minutes. At the end of this period, water was added to aid separation and the aqueous/organic mixture was allowed to stand overnight. The product, 2-chloro-2',6'-dinitro-N-(methoxymethyl)acetanilide, 2.9 g. m.p. 105.5°-108° C. was obtained in 80% yield.

reactant | 2',6'-dinitro-2-chloroacetanilide | 0.012 moles | [N+](=O)([O-])C1=C(NC(CCl)=O)C(=CC=C1)[N+](=O)[O-] | C8H6ClN3O5
reactant | chloromethyl methyl ether | COCCl | C2H5ClO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2-Chloro-2',6'-Dinitro-N-(Methoxymethyl)Acetanilide | 80% yield | ClCC(=O)N(C1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-])COC | C10H10ClN3O6
